Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metoprolol
 
Attending: ___
 
Chief Complaint:
Chest Pain, Dyspnea On Exertion 
 
Major Surgical or Invasive Procedure:
Cardiac cath ___:
The LMCA, LAD, Cx and RCA all had no angiographically apparent 
CAD. The LAD and RCA had slow flow consistent with microvascular 
dysfunction.

 
History of Present Illness:
 ___ hx of CKD, hyperthyroidism, treated hepatitis C. 
Intermittent episodes not clearly related to exertion for the 
last few months but now occurring more frequently. More severe 
yesterday than in the past. Feels squeezing sensation +/- 
dyspnea when it occurs. He denies diaphoresis, nausea. He has 
slight discomfort this morning but is pain free at this time. He 
finally called his cardiology clinic who referred him to the ER. 
He has a hx of HTN, but no prior CAD or stents.  
 Per call in "Pt reports intermittent episodes Of chest 
tightness Noticed first ___ ago when getting oob And while 
taking shower that am. Described as ___ lasted for approx 45 
seconds. States had to rest against wall . Yesterday states was 
worse, describes in his kitchen getting things together c/o 
chest tightness ___ assoc with arm and shoulder weakness, 
had to sit down For relief , lasted  
 approx 2 minutes Today describes A" little" tightness episode 
lasted 30 seconds ___ feels has experienced at rest . Denies 
sx when climbing stairs. Sx are assoc at times with Sob. Denies 
lightheadedness, sweating, nausea.".  
 In the ED initial vitals were: 97.0 83 142/88 18 97% RA  
 Exam notable for: A&Ox3 RRR no m/r/g CTAB abd s/nt Ext w/d, no 
edema  
 
 EKG:  
 ___: Normal sinus rhythm, no ischemia, non-specific TWI 
in V1.  
 
 ___ EKG for comparison: EKG ormal sinus rhythm Normal ECG  
 
 Labs/studies notable for:  
 - Trop negative x1 @ 1800  
 - Normal CBC  
 - BUN/Cr of ___ (baseline: 1.4-1.5)  
 - ProBNP 17  
 - Coags wnl.  
 ___ CXR (AP/Lateral): No acute cardiopulmonary process.  
 Patient was given:  
 ___ 18:05 PO Aspirin 243 mg  
 
 On the floor, the patient was vitally stable not complaining of 
chest pain or SOB.  
 
Past Medical History:
  -Cardiac arrhythmia, for which he had an ablation procedure  
 -BPH  
 -Mitral valve insufficiency  
 -Bladder cancer for which he had surgery, elevated PSA, and a 
neck mass.  
 -GERD  
 
Social History:
Smoking: Former Smoker (Quit ___, 1 ppd, 28 
pack-years  
 Smokeless Tobacco: Never Used  
 Alcohol: 0.0 oz alcohol/week  
 FAMILY HISTORY (From ___):  
 Father ___ at age ___  
 Mother ___ at age ___ Coronary Artery Disease; Thyroid 
Disorder 
 
Physical Exam:
Vitals: T= 98.4 HR= 70 BP= 135/90 RR= 18 O2= 94% on RA  
 Telemetry: No events on tele 
 GENERAL: Well developed, well nourished not in NAD. Oriented 
x3. Mood, affect appropriate.  
 HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
 NECK: Supple. JVP of 2 cm.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops. No thrills or lifts.  
 LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
admission labs
___ 07:15PM URINE  HOURS-RANDOM
___ 07:15PM URINE  HOURS-RANDOM
___ 07:15PM URINE  UHOLD-HOLD
___ 07:15PM URINE  GR HOLD-HOLD
___ 07:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 07:15PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:15PM URINE  MUCOUS-RARE
___ 06:09PM   GLUCOSE-99 UREA N-22* CREAT-1.3* SODIUM-140 
POTASSIUM-4.4 CHLORIDE-107 TOTAL CO2-24 ANION GAP-13
___ 06:09PM   estGFR-Using this
___ 06:09PM   cTropnT-<0.01
___ 06:09PM   proBNP-17
___ 06:09PM   WBC-9.3 RBC-6.21* HGB-14.3 HCT-45.6 MCV-73* 
MCH-23.0* MCHC-31.4* RDW-16.7* RDWSD-39.9
___ 06:09PM   NEUTS-72.4* LYMPHS-16.4* MONOS-9.2 EOS-1.2 
BASOS-0.5 NUC RBCS-0.2* IM ___ AbsNeut-6.74* AbsLymp-1.53 
AbsMono-0.86* AbsEos-0.11 AbsBaso-0.05
___ 06:09PM   PLT COUNT-188
___ 06:09PM   ___ PTT-31.0 ___

discharge labs
___ 05:30AM BLOOD WBC-7.1 RBC-5.89 Hgb-13.5* Hct-43.2 
MCV-73* MCH-22.9* MCHC-31.3* RDW-15.9* RDWSD-39.4 Plt ___
___ 05:30AM BLOOD Neuts-66.5 ___ Monos-10.7 Eos-2.4 
Baso-0.7 Im ___ AbsNeut-4.74 AbsLymp-1.40 AbsMono-0.76 
AbsEos-0.17 AbsBaso-0.05
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD ___ PTT-30.8 ___
___ 05:30AM BLOOD Glucose-98 UreaN-22* Creat-1.4* Na-141 
K-4.2 Cl-105 HCO3-24 AnGap-16
___ 05:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:30AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.0
___ 05:30AM BLOOD TSH-1.8
___ 05:30AM BLOOD T4-6.6
___ 05:30AM BLOOD
 
Brief Hospital Course:
 ___ hx of CKD, hyperthyroidism, treated hepatitis C, who 
presents with chest pain; intermittent episodes with exertion 
for the last few months but now occurring more frequently. 
Troponins negative, EKG normal, cath shows no clinically 
significant coronary disease. 
   
 #non-cardiac chest pain
No prior history of chest pain or CAD. New onset chest pain in 
the past 3 weeks.  EKG is normal, CXR wnl. trop negative x 2. 
Cath showed 65% RCA occlusion and microvascular disease, no 
intervention indicated. Patient was managed medically, started 
on isosorbide 10mg BID and atorvastatin 20mg daily. Continued 
all other home medications.

 #Hx of hyperthyroidism:  
 TSH was within normal limits. Continued on 2.5 of methimazole.

 #BPH:  
 Continued tamsulosin.

 #CKD: Cr below baseline (1.4-1.5) on admission at 1.3  
 Continued Torsemide 10 mg PRN for volume overload.  

 #HTN:  
 Continued losartan 100 mg QD.

Transitional Issues: 
- Patient with microvascular coronary artery disease, started on 
atorvastatin 20 mg daily, isosorbide 10 mg twice a day. 
Continued on losartan 100 mg daily and aspirin 81mg daily 
- repeat BP after discharge given initiation of isosoribde while 
hospitalized 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methimazole 5 mg PO DAILY 
2. Losartan Potassium 25 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY:PRN heart burn 
4. Tamsulosin 0.4 mg PO QHS 
5. Aspirin 81 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Torsemide 10 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Isosorbide Dinitrate 10 mg PO BID 
RX *isosorbide dinitrate 10 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Losartan Potassium 25 mg PO DAILY  
5.  Methimazole 5 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Omeprazole 20 mg PO DAILY:PRN heart burn  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Torsemide 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Microvascular Coronary Artery Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___. You were admitted because you had 
chest pain concerning for a cardiac cause. We performed a 
cardiac cath which showed that you have a small amount of 
occlusion in the arteries that supply your heart. We treated you 
with medications for this to prevent progression of these 
blockages. 

To that end, it is important to eat a healthy diet with plenty 
of fruits and vegetables and reduced saturated fat. It is also 
important to regularly exercise (30 minutes at least 3x a week). 
It is also very important to take all of your heart healthy 
medications. You are now supposed to take aspirin 81 mg, 
atorvastatin 20 mg daily, isosorbide 10 mg twice a day and 
losartan 100 mg daily.

Please follow up with your primary care doctor in the next two 
weeks.
 
We wish you the best with your health,  
Your ___ Cardiac Care Team  
 
Followup Instructions:
___